US07399759B2
tert-Butyl 3-{3-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propoxy}propanoate
Methyl thiosalicylate (1.0 g, 6.1 mmol) and tert-butyl 3-[3-(6-cyano-2-pyridyl)propoxy]propanoate (1.6 g, 5.5 mmol) were dissolved in toluene (5.0 ml). Triethylamine (1.35 ml, 9.7 mmol) was added to the mixture and the mixture was refluxed for 14 hrs. The reaction mixture was subjected to a silica gel (110 g) column chromatography and eluted with hexane-ethyl acetate (3:2, v/v) to give the titled compound (1.7 g, 67%) as white crystals.

reactant | Methyl thiosalicylate | 6.1 mmol, 1.0 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | tert-butyl 3-[3-(6-cyano-2-pyridyl)propoxy]propanoate | 5.5 mmol, 1.6 g | C(#N)C1=CC=CC(=N1)CCCOCCC(=O)OC(C)(C)C | C16H22N2O3
reactant | Triethylamine | 9.7 mmol, 1.35 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 3-{3-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propoxy}propanoate | 1.7 g, 67% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCCOCCC(=O)OC(C)(C)C | C23H26N2O4S
